US04971982
In an analogous manner to that described in the first paragraph of Example 6, from 4-[5-(4-methylphenyl)-2-pyridyl]-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile there was obtained 2-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-(4-methylphenyl)pyridine N-oxide of melting point 173°-175° C. (decomposition) (from ethyl acetate).

reactant | 4-[5-(4-methylphenyl)-2-pyridyl]-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | CC1=CC=C(C=C1)C=1C=CC(=NC1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C24H20N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-(4-methylphenyl)pyridine N-oxide | C(#N)C=1C=CC2=C(C(=CC(O2)(C)C)C2=[N+](C=C(C=C2)C2=CC=C(C=C2)C)[O-])C1 | C24H20N2O2
